US04689414
2-(Cyanoimino)-6-(2,3-dichlorophenyl)-3,6-dihydro-4-methyl-1,5(2H)-pyrimidinedicarboxylic acid, 1-ethyl 5-methyl ester
A suspension of 2-(cyanoimino)-6-(2,3-dichlorophenyl)-3,6-dihydro-4-methyl-5-pyrimidinecarboxylic acid, methyl ester (444 mg, 1.31 mmoles) in dry dimethylformamide (2 ml) and tetrahydrofuran (2 ml) was cooled to 0° C. and was treated with triethylamine (0.5 ml) followed by ethyl chloroformate (284 mg, 2.62 mmoles). After the addition of ethyl chloroformate, the reaction turned yellow. The cooling bath was removed and stirring was continued at room temperature for 3 hours. The reaction was then diluted with ethyl acetate and washed with water, 5% citric acid, sodium bicarbonate and brine. After drying over magnesium sulfate, the solvent was evaporated and the residue was purified by flash chromatography (12% ethyl acetate in dichloromethane). The resulting product was crystallized from dichloromethane-isopropyl ether to provide 317 mg of the title compound as a colorless solid, melting point 176°-178° C.

reactant | 2-(cyanoimino)-6-(2,3-dichlorophenyl)-3,6-dihydro-4-methyl-5-pyrimidinecarboxylic acid, methyl ester | 1.31 mmoles, 444 mg | C(#N)N=C1NC(C(=C(N1)C)C(=O)OC)C1=C(C(=CC=C1)Cl)Cl | C14H12Cl2N4O2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.62 mmoles, 284 mg | ClC(=O)OCC | C3H5ClO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-(Cyanoimino)-6-(2,3-dichlorophenyl)-3,6-dihydro-4-methyl-1,5(2H)-pyrimidinedicarboxylic acid, 1-ethyl 5-methyl ester | 317 mg | C(#N)N=C1N(C(C(=C(N1)C)C(=O)OC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OCC | C17H16Cl2N4O4
